US06005000
A total of 3.5 mL (10.5 mmol) of 3.0 M phenylmagnesium bromide was added to a solution of 1. 6 mL (10 mmol) of ethyl benzoylformate in THF in an analogous manner as described for the synthesis of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to give 5,5-diphenyl-4-hydroxy-3-phenylmethoxy-2(5H)-furanone as an oil, which was purified over SiO2 using acetone/hexanes (3/7).

reactant | phenylmagnesium bromide | 10.5 mmol, 3.0 M, 3.5 mL | C1(=CC=CC=C1)[Mg]Br
reactant | ethyl benzoylformate | 10 mmol, 6 mL | C(C1=CC=CC=C1)(=O)C(=O)OCC | C10H10O3
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
solvent | THF | C1CCOC1 | C4H8O
product | 5,5-diphenyl-4-hydroxy-3-phenylmethoxy-2(5H)-furanone | C1(=CC=CC=C1)C1(C(=C(C(O1)=O)OCC1=CC=CC=C1)O)C1=CC=CC=C1 | C23H18O4
